US06251926B1
After a mixture of 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (500 mg), 3-oxo-1-indancarboxylic acid (284 mg), acetic acid (0.276 ml), sodium acetate (264 mg) and ethanol (20 ml) was heated to reflux for 18 hours, the mixture was cooled to room temperature. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-1-indancarboxylic acid (522 mg, yield 69%) as colorless crystals. m.p. 148-149° C.

reactant | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 500 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON)C=C1 | C18H18N2O3
reactant | 3-oxo-1-indancarboxylic acid | 284 mg | O=C1CC(C2=CC=CC=C12)C(=O)O | C10H8O3
reactant | acetic acid | 0.276 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 264 mg | C(C)(=O)[O-].[Na+]
solvent | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | E-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-1-indancarboxylic acid | 522 mg, yield 69% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C\2/CC(C3=CC=CC=C23)C(=O)O)C=C1 | C28H24N2O5
